US09212155B2
Preparation of Compound AX [3-(2-Fluoro-biphenyl-4-yl)butyramide]
To a solution of 3-(2-fluoro-biphenyl-4-yl)butyronitrile in tent-butyl alcohol was added 1.87 g of finely powdered potassium hydroxide. The resulting suspension was stirred and heated to 70° C. for 2.5 hours and cooled to room temperature. The reaction suspension was diluted with 1.0 N HCl solution (100 mL) and extracted with ethyl acetate (2×100 mL). The ethyl acetate extracts were combined and washed with 5% bicarbonate solution (100 mL) and then with H2O (100 mL). The organics were then dried over MgSO4, and concentrated to a white solid which was re-crystallized several times with EtOAc/Hex to give white flaky prisms (1.62 g, 75% yield).

reactant | 3-(2-fluoro-biphenyl-4-yl)butyronitrile | FC1=C(C=CC(=C1)C(CC#N)C)C1=CC=CC=C1 | C16H14FN
reactant | butyl alcohol | C(CCC)O | C4H10O
reactant | potassium hydroxide | [OH-].[K+]
solvent | HCl | 1.0 N, 100 mL | Cl | ClH
product | 3-(2-Fluoro-biphenyl-4-yl)butyramide | 1.62 g, 75% yield | FC1=C(C=CC(=C1)C(CC(=O)N)C)C1=CC=CC=C1 | C16H16FNO
